US04737500
4,4-Dimethyl-1-(4-(4-(4-(1,1-dimethylethyl)-2-thiazolyl)-1-piperazinyl)butyl)-2,6-piperidin-dione [compound of formula Ia]
4 g 1-(4-Bromobutyl)-4,4-dimethyl-2,6-piperidin-dione, 3.15 g 1-(4-(1,1-dimethylethyl)-2-thiazolyl)-piperazine, 2.7 g K2CO3, 70 ml dimethylformamide and 20 ml water are stirred at room temperature for about 35 hours. The mixture is diluted with water, extracted twice with ether, the combined extracts are washed with water, dried (Na2SO4) and evaporated. The residue is recrystallized from hexane/ethyl acetate, whereby the title compound is obtained, m.p. 93°-94°. M.p. of the hydrochloride is 199°-201° (ethanol/ether).

reactant | 1-(4-Bromobutyl)-4,4-dimethyl-2,6-piperidin-dione | 4 g | BrCCCCN1C(CC(CC1=O)(C)C)=O | C11H18BrNO2
reactant | 1-(4-(1,1-dimethylethyl)-2-thiazolyl)-piperazine | 3.15 g | CC(C)(C)C=1N=C(SC1)N1CCNCC1 | C11H19N3S
reactant | K2CO3 | 2.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrochloride | Cl | ClH
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
solvent | ethanol ether | C(C)O.CCOCC
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 4,4-Dimethyl-1-(4-(4-(4-(1,1-dimethylethyl)-2-thiazolyl)-1-piperazinyl)butyl)-2,6-piperidin-dione | CC1(CC(N(C(C1)=O)CCCCN1CCN(CC1)C=1SC=C(N1)C(C)(C)C)=O)C | C22H36N4O2S
